US05290934
To a solution of 1-cyclopropyl-6-fluoro-7-bromo-5-methyl-1,4-dihydro-4-oxoquinoline-3-carboxylic acid (0.58 g) in N-methyl-2-pyrrolidone (5 ml) is added 4-oxopiperidine (0.64 g) and the mixture is heated at 90° C. for 20 minutes The solvent is distilled off under reduced pressure To the resulting residue is added ethanol and the precipitated crystals are filtered to give 1-cyclopropyl-6-fluoro-7-(4-oxo-1-piperidinyl)-5-methyl-1,4-dihydro-4-oxoquinoline-3-carboxylic acid (230 mg).

reactant | 1-cyclopropyl-6-fluoro-7-bromo-5-methyl-1,4-dihydro-4-oxoquinoline-3-carboxylic acid | 0.58 g | C1(CC1)N1C=C(C(C2=C(C(=C(C=C12)Br)F)C)=O)C(=O)O | C14H11BrFNO3
reactant | 4-oxopiperidine | 0.64 g | O=C1CCNCC1 | C5H9NO
solvent | N-methyl-2-pyrrolidone | 5 ml | CN1C(CCC1)=O | C5H9NO
product | 1-cyclopropyl-6-fluoro-7-(4-oxo-1-piperidinyl)-5-methyl-1,4-dihydro-4-oxoquinoline-3-carboxylic acid | 230 mg | C1(CC1)N1C=C(C(C2=C(C(=C(C=C12)N1CCC(CC1)=O)F)C)=O)C(=O)O | C19H19FN2O4
